US07786108B2
Step 2. Preparation of (S)-5-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-3,3-dimethyl-pentanoic acid
Heat the mixture of (S)-5-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-3,3-dimethyl-pentanoic acid methyl ester (0.120 g, 0.169 mmol) in 5.0 N NaOH (1 mL) and methanol (5 mL) under reflux for 2 h. Evaporate the solvents and re-dissolve in water (10 mL). Adjust to pH=4 by adding 4.0 N HCl. Extract with ethyl acetate (2×10 mL). Combine the organic layers, dry over anhydrous sodium sulfate and filter. Remove the solvent under reduced pressure. Chromatograph the residue over silica gel, eluting with ethyl acetate/hexanes (0-100%), to provide the title compound as white foam (0.104 g, 88%). MS (ES+): 695 (M+H); 693 (M−H).

reactant | (S)-5-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-3,3-dimethyl-pentanoic acid methyl ester | 0.169 mmol, 0.120 g | COC(CC(CCN1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2C)C(F)(F)F)C)(C)C)=O | C32H37F9N6O2
solvent | NaOH | 5.0 N, 1 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (S)-5-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7,9-dimethyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-3,3-dimethyl-pentanoic acid | 0.104 g, 88% | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)CCC(CC(=O)O)(C)C)C(=C(C(=C3)C)C(F)(F)F)C)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C31H35F9N6O2
